US05082950
A mixture of diethyl 5-benzoyl-2,3-dihydro-1H-pyrrolizine-1,1-dicarboxylate (600 mg, I.69 mmol) in diethyl ether and 20% aqueous sodium hydroxide (10 mL) was refluxed with vigorous stirring for 24 hours. The aqueous layer was washed with ether (20 mL), and acidified with concentrated hydrochloric acid. The aqueous layer was washed with ethyl acetate (3×20 mL). The ethyl acetate extracts were combined and warmed at 70° C. for 4 hours. The ethyl acetate solution was concentrated under reduced pressure to yield 400 mg (93%) of 5-benzoyl-2,3-dihydro-1H-pyrrolizine-1-carboxylic acid as a pure solid.

reactant | diethyl 5-benzoyl-2,3-dihydro-1H-pyrrolizine-1,1-dicarboxylate | 69 mmol, 600 mg | C(C1=CC=CC=C1)(=O)C=1N2CCC(C2=CC1)(C(=O)OCC)C(=O)OCC | C20H21NO5
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | sodium hydroxide | 10 mL | [OH-].[Na+]
product | 5-benzoyl-2,3-dihydro-1H-pyrrolizine-1-carboxylic acid | 400 mg, 93% | C(C1=CC=CC=C1)(=O)C=1N2CCC(C2=CC1)C(=O)O | C15H13NO3
